US03937833
A suspension of 30.5 g (0.12 mole) of fluoren-9-one-2,7-dicarbonyl chloride in 1 liter of dry chloroform free from ethanol is stirred and treated with 37.5 g (0.26 mole) of 3-piperidino-1-propanol resulting in a mildly exothermic reaction. The resulting mixture is stirred and refluxed for two hours, cooled to room temperature, filtered, and the filtrate washed three times with 250 ml portions of saturated sodium bicarbonate solution. The chloroform solution is then washed with water and saturated sodium chloride solution, dried over anhydrous sodium sulfate, and filtered. Most of the solvent is removed from the filtrate on a steam bath under vacuum, and the residue is dissolved in butanone. The solution is made acidic to Congo Red with ethereal HCl causing the product to precipitate as a yellow crystalline solid. The solid is filtered, recrystallized from butanone-methanol and dried to give bis(3-piperidinopropyl)-9-oxofluorene-2,7-dicarboxylate dihydrochloride, M.P. 2.93°-295°C (dec.).

reactant | fluoren-9-one-2,7-dicarbonyl chloride | 0.12 mole, 30.5 g | C1=C(C=CC=2C3=CC=C(C=C3C(C12)=O)C(=O)Cl)C(=O)Cl | C15H6Cl2O3
reactant | ethanol | C(C)O | C2H6O
reactant | 3-piperidino-1-propanol | 0.26 mole, 37.5 g | N1(CCCCC1)CCCO | C8H17NO
solvent | chloroform | 1 liter | C(Cl)(Cl)Cl | CHCl3
product | bis(3-piperidinopropyl)-9-oxofluorene-2,7-dicarboxylate dihydrochloride | Cl.Cl.N1(CCCCC1)CCCOC(=O)C1=CC=2C(C3=CC(=CC=C3C2C=C1)C(=O)OCCCN1CCCCC1)=O | InChI=1S/C31H38N2O5.2ClH/c34-29-27-21-23(30(35)37-19-7-17-32-13-3-1-4-14-32)9-11-25(27)26-12-10-24(22-28(26)29)31(36)38-20-8-18-33-15-5-2-6-16-33;;/h9-12,21-22H,1-8,13-20H2;2*1H
